US07807690B2
4-{3-[(5-Fluoro-8-methoxychroman-6-yl)-(1-imino-2,3-dihydro-1H-isoindol-5-ylamino)methyl]-5-oxo-4,5-dihydro-[1,2,4]triazol-1-yl}thiazole-5-carboxylic acid
To a mixture of 4-(3-{[3-(t-butoxycarbonylaminomethyl)-4-cyanophenylamino]-(5-fluoro-8-methoxychroman-6-yl)methyl}-5-oxo-4,5-dihydro-[1,2,4]triazol-1-yl)thiazole-5-carboxylic acid methyl ester (74 mg) and methanol (2.0 mL) there was added aqueous 5N sodium hydroxide (111 μL), and the mixture was stirred at room temperature for 3 hours and 15 minutes. After adding acetic acid (52 μL) to the mixture, the solvent in the mixture was distilled off under reduced pressure. Dichloromethane (2.0 mL) was added to the residue, TFA (400 μL) was added to the resulting solution and the mixture was stirred at room temperature for 5 hours. Dichloromethane (50 mL) was added to the mixture, which was then stirred at room temperature for 14 hours. Toluene (10 mL) was added to the mixture, and the solvent in the mixture was distilled off. The residue was purified by reverse-phase high performance liquid chromatography (acetonitrile/water mixed solvent, 0.1% acetic acid) to obtain the target compound (21 mg).

reactant | 4-(3-{[3-(t-butoxycarbonylaminomethyl)-4-cyanophenylamino]-(5-fluoro-8-methoxychroman-6-yl)methyl}-5-oxo-4,5-dihydro-[1,2,4]triazol-1-yl)thiazole-5-carboxylic acid methyl ester | 74 mg | COC(=O)C1=C(N=CS1)N1N=C(NC1=O)C(C=1C(=C2CCCOC2=C(C1)OC)F)NC1=CC(=C(C=C1)C#N)CNC(=O)OC(C)(C)C | C31H32FN7O7S
reactant | methanol | 2.0 mL | CO | CH4O
reactant | sodium hydroxide | 5N, 111 μL | [OH-].[Na+]
solvent | acetic acid | 52 μL | C(C)(=O)O | C2H4O2
product | 4-{3-[(5-Fluoro-8-methoxychroman-6-yl)-(1-imino-2,3-dihydro-1H-isoindol-5-ylamino)methyl]-5-oxo-4,5-dihydro-[1,2,4]triazol-1-yl}thiazole-5-carboxylic acid | 21 mg | FC1=C2CCCOC2=C(C=C1C(C1=NN(C(N1)=O)C=1N=CSC1C(=O)O)NC=1C=C2CNC(C2=CC1)=N)OC | C25H22FN7O5S
